US07217723B2
6-Methyl-7-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-sulfonic acid[2-(4-fluorophenyl)ethyl]-methyl-amide
From 6-methyl-7-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-sulfonyl chloride (the compound of Preparation Example 13) (140 mg) and [2-(4-fluorophenyl)ethyl]methylamine (the compound of Preparation Example 14) (98 mg), the title compound (152 mg) was obtained as an orange oily substance, in the same way as Preparation Example 41.

reactant | 6-methyl-7-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-sulfonyl chloride | CC1CCC2=C(SC=C2S(=O)(=O)Cl)C1=O | C9H9ClO3S2
reactant | [2-(4-fluorophenyl)ethyl]methylamine | FC1=CC=C(C=C1)CCNC | C9H12FN
product | 6-Methyl-7-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-sulfonic acid[2-(4-fluorophenyl)ethyl]-methyl-amide | 152 mg | FC1=CC=C(C=C1)CCN(S(=O)(=O)C=1C2=C(SC1)C(C(CC2)C)=O)C | C18H20FNO3S2
